US05856273
Step 1 Preparation of (3-nitro)phenyl methyl sulphone
Phenyl methyl sulphone (4.0 g) was added, portionwise, to fuming nitric acid stirred at 0° C. The reaction mixture was allowed to warm to room temperature, stirred for 1 hour, and then poured carefully onto ice. The solution was carefully neutralised with sodium bicarbonate and the mixture filtered at the pump. The solid collected was washed with water and dried under reduced pressure over potassium hydroxide to give the title compound as a white solid (5.63 g) in a sufficient state of purity for the next reaction.

reactant | Phenyl methyl sulphone | 4.0 g | CS(=O)(=O)C1=CC=CC=C1 | C7H8O2S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (3-nitro)phenyl methyl sulphone | 5.63 g | CS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C7H7NO4S
